US07737166B2
4-Amino-5-cyano-2-fluoro-6-methylbiphenyl-3-yl cyclobutanecarboxylate (I-207)
Under nitrogen atmosphere, 2-amino-5-phenyl-4-fluoro-3-hydroxy-6-methylbenzonitrile (I-41) (250 mg, 1.03 mmol) was dissolved in acetonitrile (0.10 ml), and cooled to 0° C. Triethylamine (244 μl, 1.75 mmol) and cyclobutanecarbonyl chloride (177 μl, 1.55 mmol) were dropwise added to the solution, followed by stirring at room temperature for 1 hour. 10% citric acid was added to the reaction liquid, and the solvent was evaporated away under, reduced pressure. Ethyl acetate was added to the resulting residue, followed by washing with saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated away under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the eluate with ethyl acetate/hexane (1:4, v/v) gave the entitled compound (283 mg, 85%) as a white solid.

reactant | 2-amino-5-phenyl-4-fluoro-3-hydroxy-6-methylbenzonitrile | 1.03 mmol, 250 mg | NC1=C(C#N)C(=C(C(=C1O)F)C1=CC=CC=C1)C | C14H11FN2O
reactant | Triethylamine | 1.75 mmol, 244 μl | C(C)N(CC)CC | C6H15N
reactant | cyclobutanecarbonyl chloride | 1.55 mmol, 177 μl | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | acetonitrile | 0.10 ml | C(C)#N | C2H3N
product | 4-Amino-5-cyano-2-fluoro-6-methylbiphenyl-3-yl cyclobutanecarboxylate | 283 mg, 85% | C1(CCC1)C(=O)OC=1C(=C(C(=C(C1N)C#N)C)C1=CC=CC=C1)F | C19H17FN2O2
